US05843968
To a solution in THF (10 mL) and ethanol (8 mL) of 2,2-dimethyl-3,3-bis(4-(2-quinolylmethoxy)phenyl)propionic acid (0.128 g, 0.225 mmol), prepared as in step 3, was added one equivalent of NaOH (2.3 mL, 0.1N NaOH). The reaction was stirred for 1 hour at room temperature, concentrated, and dried under high vacuum to provide 2,2-dimethyl-3,3-bis(4-(2-quinolylmethoxy)phenyl)propionic acid sodium salt as a white powder 0.13 g (99%): mp 250°-255° C. (dec); 1H NMR (300 MHz, DMSO-d6) d 0.91 (s, 6H), 4.46 (s, 1H), 5.29 (s, 4H), 6.87 (d, 4H, J=9 Hz), 7.15 (d, 4H, J=9 Hz), 7.61 (m, 2H), 7.67 (d, 4H, J=9 Hz), 7.78 (m, 2H), 8.00 (t, 4H, J=9 Hz), 8.40 (d, 2H, J=9 Hz); MS m/e (FAB+) 569 (M+H)+, (FAB-) 567 (M-H)-. Anal. Calc'd. for C37H31N2O4Na.0.5 H2O: C, 74.10; H, 5.37; N 4.67. Found C, 74.02; H, 5.24; N, 4.50.

reactant | ethanol | 8 mL | C(C)O | C2H6O
reactant | 2,2-dimethyl-3,3-bis(4-(2-quinolylmethoxy)phenyl)propionic acid | 0.225 mmol, 0.128 g | CC(C(=O)O)(C(C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1)C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1)C | C37H32N2O4
reactant | NaOH | 0.1N, 2.3 mL, one equivalent | [OH-].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2,2-dimethyl-3,3-bis(4-(2-quinolylmethoxy)phenyl)propionic acid sodium salt | 0.13 g, 99% | [Na+].CC(C(=O)[O-])(C(C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1)C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1)C | InChI=1S/C37H32N2O4.Na/c1-37(2,36(40)41)35(27-13-19-31(20-14-27)42-23-29-17-11-25-7-3-5-9-33(25)38-29)28-15-21-32(22-16-28)43-24-30-18-12-26-8-4-6-10-34(26)39-30;/h3-22,35H,23-24H2,1-2H3,(H,40,41);/q;+1/p-1
